US06369075B1
2-(4-Trifluoromethyl-phenyl)-nicotinic acid
2-(4-Trifluoromethyl-phenyl)-nicotinic acid ethyl ester (2.33 g, 7.9 mmol) was dissolved in 40 ml of a 3:1:1 mixture of tetrahydrofuran-methanol-water, and lithium hydroxide monohydrate (828 mg, 19.8 mmol) was added. After stirring overnight at room temperature, the volatiles were removed under vacuum and 75 ml of water was added to the mixture, which was brought to pH 2 with 1N HCl. The resulting slurry was extracted with 2×100 ml of ethyl acetate, the combined organic layers were washed with brine, dried (magnesium sulfate), filtered and concentrated under vacuum to provide 2.15 g of the title compound as a colorless solid.

reactant | 2-(4-Trifluoromethyl-phenyl)-nicotinic acid ethyl ester | 7.9 mmol, 2.33 g | C(C)OC(C1=C(N=CC=C1)C1=CC=C(C=C1)C(F)(F)F)=O | C15H12F3NO2
reactant | lithium hydroxide monohydrate | 19.8 mmol, 828 mg | O.[OH-].[Li+]
solvent | tetrahydrofuran-methanol water | O1C(CCC1)CO.O
product | 2-(4-Trifluoromethyl-phenyl)-nicotinic acid | 2.15 g | FC(C1=CC=C(C=C1)C1=C(C(=O)O)C=CC=N1)(F)F | C13H8F3NO2
